US05112977
Dimethyl 2-(3-fluoro-naphthacene-5,12-dionyl)-malonate
1 g (3.4 mmol) of 2,3-difluoro-naphthacene-5,12-dione, 0.94 g (6.8 mmol) of potassium carbonate, 0.89 g (6.8 mmol) of dimethyl malonate and 20 ml of DMSO are stirred at 50° C. for 22 hours. The mixture is poured onto dilute hydrochloric acid and extracted with THF/toluene. The organic phase is washed with water, dried over sodium sulfate and evaporated. The product is purified by chromatography over silica gel (mobile phase: 1% acetone/99% CH2Cl2); yield 1.25 g (91%); melting point 225°-230° C.

reactant | 2,3-difluoro-naphthacene-5,12-dione | 3.4 mmol, 1 g | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1F)=O)=O | C18H8F2O2
reactant | potassium carbonate | 6.8 mmol, 0.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl malonate | 6.8 mmol, 0.89 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | Dimethyl 2-(3-fluoro-naphthacene-5,12-dionyl)-malonate | FC=1C=C(C=2C(C3=CC4=CC=CC=C4C=C3C(C2C1)=O)=O)C(C(=O)OC)C(=O)OC | C23H15FO6
